US08461336B2
2-Cyclopentyloxy-6-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-nicotinonitrile (Z)
To a solution of 2-cyclopentyloxy-6-[3-formyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-nicotinonitrile (2.0 g, 4.60 mmol) in methanol (15 mL) at 0° C. was added sodium borohydride (0.26 g, 6.90 mmol). After 1 h at rt, 2 M HCl was added to it at 0° C. until pH reached to 3˜4. The resulting mixture was stirred at 0° C. for 30 min and then sonicated to give white solid which was filtered and lyophilized to yield Z (0.85 g, 56%) as white solid. 1H NMR (400 MHz, DMSO-d6) δ 9.24 (s, 1 H), 8.20 (d, J=8.2 Hz, 1 H), 7.77 (d, J=7.8 Hz, 1 H), 7.27 (d, J=1.2 Hz, 1 H), 7.18 (dd, J=8.2, 1.9 Hz, 1 H), 6.69 (d, J=8.2 Hz, 1 H), 4.97 (br. s., 3 H), 1.75-1.54 (m, 6 H), 1.52-1.33 (m, 2 H); MS (ES) m/z: 337 (M+1)+; HPLC purity 99.36% (Maxplot), 99.35% (220 nm); Elemental analysis for C18H17BN2O4.0.25 H2O: Calculated C=63.46%, H=5.18%, N=8.22%; Found C=63.34%, H=5.17%, N=8.34%.

reactant | 2-cyclopentyloxy-6-[3-formyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-nicotinonitrile | 4.60 mmol, 2.0 g | C1(CCCC1)OC1=C(C#N)C=CC(=N1)OC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=O | C24H27BN2O5
reactant | sodium borohydride | 6.90 mmol, 0.26 g | [BH4-].[Na+]
reactant | HCl | 2 M | Cl | ClH
reactant | H2O | O | H2O
solvent | methanol | 15 mL | CO | CH4O
product | 2-Cyclopentyloxy-6-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-nicotinonitrile | C1(CCCC1)OC1=C(C#N)C=CC(=N1)OC1=CC2=C(B(OC2)O)C=C1 | C18H17BN2O4
